US04010177
In the manner given in Preparation 19, 8 -(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine in dimethylformamide is reacted at room temperature with propargylamine in the presence of potassium iodide to give 8-(trifluoromethyl)-1-[[(2-propynyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine. Preparation 23 8 -Chloro-1-[[(2-propynyl)amino]methyl]-6-(2,6-difluorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine

reactant | 8 -(trifluoromethyl)-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1)(F)F | C18H11Cl2F3N4
reactant | propargylamine | C(C#C)N | C3H5N
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-(trifluoromethyl)-1-[[(2-propynyl)amino]methyl]-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCC#C)C3=C(C=CC=C3)Cl)C1)(F)F | C21H15ClF3N5
